US04435419
A 92.3 g. portion of m-anisidine is dissolved in 225 ml. of concentrated hydrochloric acid, 150 ml. of water and 150 g. of ice and cooled to 0° C. This mixture is diazotized carefully with vigorous stirring at 0°-5° C. with 52.5 g. of sodium nitrite in 120 ml. of water. This mixture is then added to 83.25 g. of N-methylmaleimide in 225 ml. of acetone at 0° C. The pH is adjusted to 3.0 and 25.5 g. of cuprous chloride dihydrate is added in one portion followed by 200 ml. of acetone, with stirring. Evaporation of the acetone and decantation of the aqueous layer leaves a black residue which is boiled with one liter of benzene, dried over magnesium sulfate and filtered through a Buchner funnel containing 50 g. of activated magnesium silicate. The residue is boiled with one liter of benzene and filtered through activated magnesium silicate. The dark filtrate is evaporated under reduced pressure and then heated for 10 minutes with 100 ml. of 2,6-lutidine to insure dehydrochlorination. This solution is combined with 500 ml. of water and 400 ml. of pyridine and filtered. The crystalline cake is pressed free of dark oil and then boiled with 500 ml. of 90% ethanol. This is cooled and filtered giving 2-(m-methoxyphenyl)-N-methylmaleimide as orange crystals.

reactant | m-anisidine | COC1=CC(=CC=C1)N | C7H9NO
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | N-methylmaleimide | CN1C(C=CC1=O)=O | C5H5NO2
solvent | benzene | one liter | C1=CC=CC=C1 | C6H6
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-(m-methoxyphenyl)-N-methylmaleimide | COC=1C=C(C=CC1)C=1C(=O)N(C(C1)=O)C | C12H11NO3
